US04574122
N-Octadecyl-D-glucopyranosylamine
20 g of octadecylamine are dissolved in 120 ml of ethanol and the solution is warmed to 70° C. 11 g of anhydrous D-glucose are added. Stirring is continued for a further 15 minutes at 70° after a clear solution has been formed. The mixture is cooled to 10° and allowed to stand for 15 minutes. The resulting mash of crystals is filtered off with suction, washed twice with ethanol and dried in vacuo.

reactant | octadecylamine | 20 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | D-glucose | 11 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-Octadecyl-D-glucopyranosylamine | C(CCCCCCCCCCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C24H49NO5
